US07071216B2
To a stirred solution of 2-methoxy-4-(methylamino)-5-nitrophenol(1 eq) in N,N-dimethylacetamide was added potassium-t-butoxide (1.2 eq) and continued stirring at ambient temperature until it solidified. To it was then added (3-chlorophenyl)-N-methylcarboxamide (1 eq) and anhydrous potassium carbonate (1 eq) and the resulting mixture was heated to 50° C. whereby the solid liquified. It was then heated to 110° C. for 12 h. After cooling to ambient temperature the solvent was distilled off and the resulting solid was extracted using ethyl acetate in a soxhlet apparatus for 48 h. the organic layer was cooled to 0° C., when the product crystallized from the ethyl acetate to give {4-[2-methoxy-4-(methylamino)-5-nitrophenoxy](2-pyridyl)}-N-methylcarboxamide. MS:MH+ 332

reactant | 2-methoxy-4-(methylamino)-5-nitrophenol | 1 eq | COC1=C(C=C(C(=C1)NC)[N+](=O)[O-])O | C8H10N2O4
reactant | potassium-t-butoxide | 1.2 eq | CC(C)([O-])C.[K+]
reactant | (3-chlorophenyl)-N-methylcarboxamide | 1 eq | ClC=1C=C(C=CC1)C(=O)NC | C8H8ClNO
reactant | potassium carbonate | 1 eq | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | {4-[2-methoxy-4-(methylamino)-5-nitrophenoxy](2-pyridyl)}-N-methylcarboxamide | COC1=C(OC2=CC(=NC=C2)C(=O)NC)C=C(C(=C1)NC)[N+](=O)[O-] | C15H16N4O5
